US04963543
To a suspension of sodium borohydride (1.38 g) in tetrahydrofuran (50 ml) was added boron trifluoride etherate (4.49 ml) in a nitrogen stream with stirring at 0°~5° C. The mixture was stirred at the same condition for 30 minutes. To the mixture was added a solution of (2S, 4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[(ureidomethylcarbonyl)aminomethyl]pyrrolidine (2.90 g) at 0°~5° C. The mixture was stirred at 0°~5° C. for 1 hour and at ambient temperature overnight. Ethanol (30 ml) was added to the reaction mixture at 0°~10° C. After stirring for 2 hours, insoluble material was filtered off and the filtrate was concentrated under reduced pressure to give a residue. A solution of the residue in a mixture of concentrated hydrochloric acid (2.9 ml) and methanol (29 ml) was stirred at ambient temperature for 20 hours. The mixture was concentrated under reduced pressure to give (2S, 4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[(2-ureidoethyl)aminomethyl]pyrrolidine hydrochloride. To a solution of the compound obtained above in a mixture of water (20 ml) and tetrahydrofuran (20 ml) was added a solution of 4-nitrobenzyloxycarbonyl chloride (1.60 g) in tetrahydrofuran (5 ml) under ice-cooling, keeping the pH between 8.5-9.5 with concentrated hydrochloric acid. The reaction mixture was extracted with ehtyl acetate (100 ml). The organic layer was washed with brine (50 ml×2), dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (5:95 v/v) to give (2S, 4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[N-(4-nitrobenzyloxycarbonyl)-N-(2-ureidoethyl)amino]methylpyrrolidine (1.78 g).

reactant | sodium borohydride | 1.38 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 4.49 ml | B(F)(F)F.CCOCC
reactant | (2S, 4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[(ureidomethylcarbonyl)aminomethyl]pyrrolidine | 2.90 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CNC(=O)CNC(=O)N | C16H21N5O7
reactant | hydrochloric acid | 2.9 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 29 ml | CO | CH4O
solvent | Ethanol | 30 ml | C(C)O | C2H6O
product | (2S, 4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[(2-ureidoethyl)aminomethyl]pyrrolidine hydrochloride | Cl.O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CNCCNC(=O)N | InChI=1S/C16H23N5O6.ClH/c17-15(23)19-6-5-18-8-13-7-14(22)9-20(13)16(24)27-10-11-1-3-12(4-2-11)21(25)26;/h1-4,13-14,18,22H,5-10H2,(H3,17,19,23);1H/t13-,14+;/m0./s1
